US08466282B2
To a mixed solution of tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (103 mg), propane-1,3-diol (152 mg) and triphenylphosphine (105 mg) in toluene (5 ml) and THF (5 ml) was added diisopropyl azodicarboxylate (202 μl) at room temperature, and the mixture was stirred at the same temperature for 15 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give tert-butyl (3S,5R)-3-[{[1-(3-hydroxypropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate. The obtained tert-butyl (3S,5R)-3-[{[1-(3-hydroxypropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate was dissolved in 10-20% hydrogen chloride-methanol (3 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated to give the object product (22 mg).

reactant | tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 103 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | propane-1,3-diol | 152 mg | C(CCO)O | C3H8O2
reactant | triphenylphosphine | 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 202 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | tert-butyl (3S,5R)-3-[{[1-(3-hydroxypropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | OCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C30H45N5O6
